US06166060
1-[1-Triphenylmethyl-5-imidazoyl]-3-(diethoxyphosphinyl)oxy-4-p-toluenesulfonyl-6-cyclohexyl-3-hexene (14.5 g, 0.018 mol) was dissolved in dry THF (150 ml) and HMPA (10 ml) at room temperature under N2. Sml2 (0.1M solution in THF) was added to the reaction in 50 ml portions via syringe. Atotal of 400 ml of 0.1M Sml2 was added. After the last 50 ml portion was added, the blue reaction mixture was stirred for 1 hour. The reaction mixture was added to 500 ml of a saturated solution of ammonium chloride and extracted with ethyl acetate (2×500 ml). The ethyl acetate layer was washed with brine (250 ml), water (2×400 ml) and brine (250 ml). The ethyl acetate layer was separated, dried over MgSO4, filtered and evaporated in vacuo to give a yellow oil. The crude acetylene was taken up in 25 ml of CHCl3 and filtered through a pad of silica gel (200 g) using 1 liter of ethyl acetate/hexanes (2:8). The filtrate was evaporated in vacuo to afford a viscous yellow oil which solidified upon standing. The solid was triturated with hexanes, filtered and washed with hexanes to give 5.5 g of 1-[1-triphenylmethyl-1H-imidazol-4-yl]-6-cyclohexyl-3-hexyne.

reactant | 1-[1-Triphenylmethyl-5-imidazoyl]-3-(diethoxyphosphinyl)oxy-4-p-toluenesulfonyl-6-cyclohexyl-3-hexene | 0.018 mol, 14.5 g | C1(=CC=CC=C1)C(N1C=NC=C1C(=O)CCC(=C(CCC1CCCCC1)S(=O)(=O)C1=CC=C(C=C1)C)OP(=O)(OCC)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H53N2O7PS
reactant | HMPA | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | acetylene | C#C | C2H2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[1-triphenylmethyl-1H-imidazol-4-yl]-6-cyclohexyl-3-hexyne | 5.5 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC#CCCC1CCCCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H36N2
